** sch_path: /home/joyen/ee5311/EE5311/assignments/assignment3/assign2c.sch
**.subckt assign2c
x1 net1 vout inverter
x2 net2 net1 inverter
x3 net3 net2 inverter
x4 net4 net3 inverter
x5 net5 net4 inverter
x6 net6 net5 inverter
x7 net7 net6 inverter
V1 VDD GND {vdd_val}
x8 net8 net7 inverter
x9 vout net8 inverter
**** begin user architecture code


.param vdd_val = 1.8
.param width_p = 0.84

.ic v(vout)=0

.control
let Nsim = 9
let periodvec = vector(Nsim)
let freqvec = vector(Nsim)
let vddvec = vector(Nsim)
let index = 0

while index < Nsim
  let vddv = 1.0 + (index * 0.1)

  alterparam vdd_val = $&vddv
  reset

  * Increase transient time to 20ns to ensure lower VDDs fully stabilize
  tran 1p 20n uic

  * Measure between later edges (rise=8 and rise=9) to avoid startup transients
  meas tran t1 WHEN v(vout)=0.5 rise=8
  meas tran t2 WHEN v(vout)=0.5 rise=9

  let periodvec[index] = t2 - t1
  let freqvec[index] = 1 / (t2 - t1)
  let vddvec[index] = vddv

  let index = index + 1
end

plot freqvec vs vddvec
plot periodvec vs vddvec
.endc


.lib /cad/share/pdk/sky130B/libs.tech/combined/sky130.lib.spice tt
**** end user architecture code
**.ends

* expanding   symbol:  inverter.sym # of pins=2
** sym_path: /home/joyen/ee5311/EE5311/assignments/assignment3/inverter.sym
** sch_path: /home/joyen/ee5311/EE5311/assignments/assignment3/inverter.sch
.subckt inverter y a
*.ipin a
*.opin y
XM1 y a GND GND sky130_fd_pr__nfet_01v8 L=0.15 W=0.42 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM2 y a VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W={width_p} nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
.ends

.GLOBAL GND
.GLOBAL VDD
.end
