** sch_path: /home/joyen/ee5311/EE5311/assignments/assignment3/assign2c.sch
**.subckt assign2c
x1 net1 vout inverter
x2 net2 net1 inverter
x3 net3 net2 inverter
x4 net4 net3 inverter
x5 net5 net4 inverter
x6 net6 net5 inverter
x7 net7 net6 inverter
V1 VDD GND {vdd_val}
x8 net8 net7 inverter
x9 vout net8 inverter
**** begin user architecture code


.param vdd_val = 1.8
.param width_p = 0.84

.ic v(vout)=0

.control

let Nsim = 9
let periodvec = vector(Nsim)
let freqvec = vector(Nsim)
let vddvec = vector(Nsim)
let index = 0

while index < Nsim

  let vddv = 1.0 + (index * 0.1)
  alterparam vdd_val = $&vddv

  reset
  * Give it plenty of time (40ns) so 1.0V and 1.1V fully settle

  * Give it a massive window (100ns) so 1.0V can easily hit 5 edges
  tran 1p 100n uic

  meas tran t1 WHEN v(vout)=0.4 rise=4
  meas tran t2 WHEN v(vout)=0.4 rise=5

  let periodvec[index] = t2 - t1
  let freqvec[index] = 1 / (t2 - t1)
  let vddvec[index] = vddv
  let index = index + 1

end

plot freqvec vs vddvec
plot periodvec vs vddvec


.endc


.lib /cad/share/pdk/sky130B/libs.tech/combined/sky130.lib.spice tt
**** end user architecture code
**.ends

* expanding   symbol:  inverter.sym # of pins=2
** sym_path: /home/joyen/ee5311/EE5311/assignments/assignment3/inverter.sym
** sch_path: /home/joyen/ee5311/EE5311/assignments/assignment3/inverter.sch
.subckt inverter y a
*.ipin a
*.opin y
XM1 y a GND GND sky130_fd_pr__nfet_01v8 L=0.15 W=0.42 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM2 y a VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W={width_p} nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
.ends

.GLOBAL GND
.GLOBAL VDD
.end
